US06451821B1
The process is performed as in Example 2, starting with 1.49 g of N-(tert-butyl)-N′-[2-hydroxy-1-(3-nitrophenyl)ethyl]thiourea in 14 cm3 of aqueous 6 N hydrochloric acid by heating to a temperature in the region of 100° C. for 2 h 30 min. By means of an identical work-up, 1.01 g of 4-(3-nitrophenyl)-4,5-dihydro-1,3-thiazol-2-ylamine are obtained in the form of a cream-colored solid melting at 232° C.

reactant | N-(tert-butyl)-N′-[2-hydroxy-1-(3-nitrophenyl)ethyl]thiourea | 1.49 g | C(C)(C)(C)NC(=S)NC(CO)C1=CC(=CC=C1)[N+](=O)[O-] | C13H19N3O3S
reactant | hydrochloric acid | 6 N | Cl | ClH
product | 4-(3-nitrophenyl)-4,5-dihydro-1,3-thiazol-2-ylamine | 1.01 g | [N+](=O)([O-])C=1C=C(C=CC1)C1N=C(SC1)N | C9H9N3O2S
